US06503905B1
To a solution of trifluoro-methanesulfonic acid 4-[1-cyclopropylmethyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenyl ester (0.1 g, 0.2 mmol) in ethanol (4.5 mL) and water (0.5 mL) was added 2-thiophene boronic acid (0.052 g, 0.5 mmol) and sodium carbonate (0.037 g, 0.29 mmol) and tetrakis tripheny;phosphine palladium (0.02 g, 0.18 mmol). The reaction mixture was heated to reflux for 2 hours. The mixture was then filtered and the filtrate was concentrated under vacuum. The residue was purified by flash chromatography with hexanes/EtOAc (3:1) to afford 0.08 g of 1-cyclopropylmethyl-3-(3-methoxy-phenyl)-3-(4-thiophen-2-yl-phenyl)-piperidine. 1HNMR (400 MHz, CDCl3) δ 749 (d, 2H), 7.35 (d, 2H), 7.22-7.06 (comp, 3H), 7.05-7.00 (m, 1H), 6.96 (s, 1H), 6.89 (d, 1H), 6.70-6.67 (m, 1H), 3.76 (m, 3H), 3.17-2.82 (comp, 2H), 2.61-2.39 (comp, 2H), 2.27-2.18 (comp, 4H), 1.62-1.39 (comp, 3H), 0.60-0.45 (comp, 2H), 0.18-0.11 (comp, 2H); MS (M+1) 404.2.

reactant | trifluoro-methanesulfonic acid 4-[1-cyclopropylmethyl-3-(3-methoxy-phenyl)-piperidin-3-yl]-phenyl ester | 0.2 mmol, 0.1 g | C1(CC1)CN1CC(CCC1)(C1=CC(=CC=C1)OC)C1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F | C23H26F3NO4S
reactant | 2-thiophene boronic acid | 0.5 mmol, 0.052 g | S1C(=CC=C1)B(O)O | C4H5BO2S
reactant | sodium carbonate | 0.29 mmol, 0.037 g | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 4.5 mL | C(C)O | C2H6O
solvent | water | 0.5 mL | O | H2O
catalyst | tetrakis | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | phosphine palladium | 0.18 mmol, 0.02 g | [Pd].P
product | 1-cyclopropylmethyl-3-(3-methoxy-phenyl)-3-(4-thiophen-2-yl-phenyl)-piperidine | 0.08 g | C1(CC1)CN1CC(CCC1)(C1=CC=C(C=C1)C=1SC=CC1)C1=CC(=CC=C1)OC | C26H29NOS
